US08350028B2
N6-(3-Dimethylamino-propyl)-N2-(2-phenoxy-ethyl)-quinoline-2,6-diamine
The title compound, MS: m/e=365.1 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 2-phenoxyethylamine and 3-dimethylamino-propylamine.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 3-dimethylamino-propylamine | CN(CCCN)C | C5H14N2
product | N6-(3-Dimethylamino-propyl)-N2-(2-phenoxy-ethyl)-quinoline-2,6-diamine | CN(CCCNC=1C=C2C=CC(=NC2=CC1)NCCOC1=CC=CC=C1)C | C22H28N4O
